US09255089B2
5-(3,5-dimethylisoxazol-4-yl)-1-methyl-7-(6-(trifluoromethyl)quinolin-5-yl)-1H-benzo[d]imidazol-2(3H)-one
To a microwave vial containing 5-(3,5-dimethylisoxazol-4-yl)-1-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one (30 mg, 0.08 mmol, 1 equiv.) was added 5-bromo-6-(trifluoromethyl)quinoline (68 mg, 0.24 mmol, 3 equiv.), Cs2CO3 (105 mg, 0.33 mmol, 4 equiv.) and PEPPSI™-IPr catalyst (11 mg, 0.016 mmol, 0.2 equiv.) and dissolved in DME-H2O (4 mL, 0.2 M, 2/1, v/v). The mixture was heated to 120° C. for 30 min in microwave. The reaction was concentrated in vacuo and purification was then carried out by reverse phase HPLC.

reactant | 5-(3,5-dimethylisoxazol-4-yl)-1-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.08 mmol, 30 mg, 1 equiv. | CC1=NOC(=C1C1=CC2=C(N(C(N2)=O)C)C(=C1)B1OC(C(O1)(C)C)(C)C)C | C19H24BN3O4
reactant | 5-bromo-6-(trifluoromethyl)quinoline | 0.24 mmol, 68 mg, 3 equiv. | BrC1=C2C=CC=NC2=CC=C1C(F)(F)F | C10H5BrF3N
reactant | Cs2CO3 | 0.33 mmol, 105 mg, 4 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | IPr | 0.016 mmol, 11 mg, 0.2 equiv. | ICCC | C3H7I
solvent | DME H2O | COCCOC.O
product | 5-(3,5-dimethylisoxazol-4-yl)-1-methyl-7-(6-(trifluoromethyl)quinolin-5-yl)-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C1=CC2=C(N(C(N2)=O)C)C(=C1)C1=C2C=CC=NC2=CC=C1C(F)(F)F)C | C23H17F3N4O2
